US07851626B2
To a solution of 3-(3-ethoxy-phenyl)-3-methyl-butan-2-one (3.720 g, 18.03 mmol) in acetonitrile (40 mL) was added N-iodosuccinimide (5.679 g, 25.24 mmol) and trifluoroacetic acid (0.7 mL, 9.02 mmol) with stirring under argon. The reaction mixture was stirred at room temperature for 10 min then at 50° C. for 1 h. Upon cooling to room temperature, it was diluted with 10% ethyl acetate in hexane and filtered through a bed of Celite and silica gel. The filtrate was washed with water (1×), saturated solution of sodium bicarbonate (1×), 5% solution of sodium thiosulfate (1×), brine (1×), dried over anhydrous sodium sulfate and concentrated in vacuo. Purification of the crude residue by flash chromatography (330 g of silica gel, eluting with 30% ethyl acetate in hexane over 30 min) gave 4.83 g of 3-(3-ethoxy-4-iodo-phenyl)-3-methyl-butan-2-one as off-white solid.

reactant | 3-(3-ethoxy-phenyl)-3-methyl-butan-2-one | 18.03 mmol, 3.720 g | C(C)OC=1C=C(C=CC1)C(C(C)=O)(C)C | C13H18O2
reactant | N-iodosuccinimide | 25.24 mmol, 5.679 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | trifluoroacetic acid | 9.02 mmol, 0.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-(3-ethoxy-4-iodo-phenyl)-3-methyl-butan-2-one | 4.83 g | C(C)OC=1C=C(C=CC1I)C(C(C)=O)(C)C | C13H17IO2
